Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Poor appetite, nausea, abdominal pain, abdominal distention, 
transferred for large bowel obstruction from an outside hospital
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy, sigmoid colectomy, end colostomy and 
___ procedure - ___.
 
History of Present Illness:
___ year old male s/p Whipple procedure ___ T3N1
ampullary adenocarcinoma.  Now with complaint of poor appetite 
for the last month. He denies any abdominal pain, but reports 
that he has not passed flatus or had a bowel movement in over 
one week.  He is tolerating clears without nausea or vomiting.  
He does not recall ever having a colonscopy.

 
Past Medical History:
PMHx: T3N1 ampullary adenoCA s/p chemotherapy, tobacco use.
.
PSHx: ___ procedure (pancreaticoduodenectomy), open 
cholecystectomy, feeding jejunostomy tube, open liver biopsy on 
___ for T3N1 ampullary adenocarcinoma. Also, s/p T&A, (L) 
knee surgery, and portacath placement ___.

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
On Admission:
VS: 98.2, HR 90, BP 121/80, RR 16, O2sat 96%
GEN: NAD
CV: RRR
LUNGS: CTA(B)
ABD: Soft, nontender, moderately distended, mild tympany.
EXTREM: No c/c/e
DRE: Normal rectal tone, guaiac negative.

 
Pertinent Results:
___ 06:19AM   POTASSIUM-3.5
___ 06:19AM   MAGNESIUM-1.6
___ 06:19AM   HCT-40.6
___ 01:23AM   GLUCOSE-124* UREA N-21* CREAT-0.7 SODIUM-137 
POTASSIUM-3.5 CHLORIDE-101 TOTAL CO2-23 ANION GAP-17
___ 01:23AM   WBC-8.8 RBC-4.87 HGB-14.2 HCT-42.2 MCV-87 
MCH-29.2 MCHC-33.7 RDW-13.5
___ 01:23AM   NEUTS-73.2* ___ MONOS-5.8 EOS-1.1 
BASOS-0.3
___ 01:23AM   ___ PTT-31.5 ___
___ 01:23AM   PLT COUNT-318
.
___ ABD/PELVIC CT W/CONTRAST:
1. Multiple fluid density structures, some loculated with rim 
enhancement most likely represent innumerable metastatic 
deposits. These are seen in the liver, implanted on the liver 
surface. omental, site of prior Whipple, duodenum, right adrenal 
(and probably left), pelvis, and probably right 
inguinal hernia. 
2. Metastatic deposits at the right hepatic flexure cause 
dilatation of the cecum, and likely a partial obstruction. 
Another deposit in the left pelvis likely causes partial 
obstruction also. 
3. Right pulmonary nodule concerning for new pulmonary 
metastasis.
.
___ Pathology Report Tissue: SIGMOID COLON:
DIAGNOSIS: 
Sigmoid colon, partial resection (A-O):
1.  Adenocarcinoma extensively involving mesentery, subserosa, 
and bowel wall with focal extension into bowel mucosa (see 
note).
2.  Diverticular disease.
3.  Metastatic carcinoma present in 2 of 8 regional lymph nodes.

Note: The features are morphologically similar to those of the 
previously resected pancreatic ampullary carcinoma (___). 
 The involvement of the mesentery and bowel wall is consistent 
with metastasis.

Clinical: Large bowel obstruction.
Gross:  The specimen is received fresh in a container labeled 
with the patient's name "___, the medical record 
number and additionally labeled "sigmoid colon".  It consists of 
a segment of colon that measures 16 cm in length and 3.5 cm in 
diameter.  A portion of mesentery is attached to the colon that 
measures 13 x 5 x 2 cm. The specimen has one open end and one 
stapled end. The mesentery is remarkable for a palpable firm, 
shaggy area measuring 7.5 cm in length, located 2.5 cm from the 
open end. This area appears to have been involved by adhesions. 
The serosa of the bowel is involved by the thickened firm, 
shaggy area measuring 7.5 cm in length. The remainder of the 
serosa is smooth. The specimen is opened along the 
antimesenteric surface to reveal fecal material and an area of 
thickened mucosa with narrowing of the lumen. This area appears 
to contain diverticula with associated  abscess formation.  No 
masses or polyps are identified. The remainder of the mucosa is 
tan with normal folds. Diverticula measure up to 1.4 cm in 
thickness.  Within the mesentery, multiple potential lymph nodes 
are identified. The specimen is represented as follows:  A=open 
margin, B=stapled margin, C-H=area of thickening with abscess 
formation, I=area of another potential diverticula, J=normal 
mucosa, K-O=potential lymph nodes.
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
evaluation of the aforementioned problem.  On ___, the 
patient underwent exploratory laparotomy, sigmoid colectomy, end 
colostomy and ___ procedure, which went well without 
complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO with an NG tube, on IV fluids, 
with a foley catheter in place, and a Dilaudid PCA for pain 
control.  The patient was hemodynamically stable.

On ___ patient was started on TPN per nutrition's 
recommendations. His nasogastric tube was discontinued. Physical 
therapy started.

___ Tpn continued, patient's diet advanced to sips and 
physical therapy continued.

___ Ostomy cosnult obtained and ostomy bag changed and 
patient's diet increased to clears, passing gas. Social work 
consult obtained for discharge plans.

___ Patient developed nausea and vomiting, nasogastric tube 
reinserted for ileus. TPN continued.

___ Patient passing stool/flatus thru ostomy. Tolerating 
clears, nasogastric tube discontinued.

___ Tolerating regular diet, TPN discontinued.

At the time of discharge, the patient is doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. He will be discharged to 
rehab for further teaching and rehabilitation.
 
Medications on Admission:
None.
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every four 
(4) hours as needed for fever or pain.  
2. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
Indwelling Port (e.g. Portacath), heparin dependent: When 
de-accessing port, instill Heparin as above per lumen. 
3. Portacath Flush:
Heparin Flush (10 units/ml) 5 mL IV PRN line flush 
Indwelling Port (e.g. Portacath), heparin dependent: Flush with 
10 mL Normal Saline followed by Heparin as above daily and PRN 
per lumen.  
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*0*
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation: Over-the-counter.  
6. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
7. Vicodin ___ mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Large bowel obstruction secondary to metastatic carcinomatosis
Post operative ileus

 
Discharge Condition:
Stable.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency  Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours.  Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___